* OVERALL BEST CANDIDATE: 00_Phase_2_Exact_1_10_Limit_Boost_g2_cand3_b9
* FITNESS SCORE: 0.5467
*
* Generated: 2026-06-05T02:40:34
* Constraint: Phase 2: Exact 1:10 Limit (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 50
*   efficiency_target = 0.85
*   power_in = 75
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 5V to 50V Boost, 75W
Vin in 0 5
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 33.333
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
